US08859561B2
Preparation of 7-(4-fluorophenethyl)-10-chloro-2,3,5,6,7,11c-hexahydro-1H-indolizino[7,8-b]indole [Compound No. 1]
A mixture of 7-chloro-2,3,5,10,11,11a-hexahydro-1H-indolizino[7,6-b]indole and 10-chloro-2,3,5,6,7,11c-hexahydro-1H-indolizino[7,8-b]indole (non-separable regioisomers, 500 mg, 2.03 mmol, 1 equiv) and 1-(2-bromoethyl)-4-fluorobenzene (577 mg, 2.84 mmol, 1.4 equiv) were heated at 95° C. with triethyl amine (0.85 mL, 6.09 mmol, 3 equiv) in 6 mL of EtOH for 18 h. The mixture was brought to RT followed by dilution with EtOAc (40 mL), washed with water (2×10 mL), and once with brine, then dried over sodium sulfate and evaporated under reduced pressure. The crude product was purified by column chromatography over 230-400-mesh silica gel using a gradient of MeOH in EtOAc (0 to 50%). The product was further purified by reverse phase HPLC.

reactant | 7-chloro-2,3,5,10,11,11a-hexahydro-1H-indolizino[7,6-b]indole | ClC=1C=C2C3=C(NC2=CC1)CC1CCCN1C3 | C14H15ClN2
reactant | 10-chloro-2,3,5,6,7,11c-hexahydro-1H-indolizino[7,8-b]indole | 2.03 mmol, 500 mg, 1 equiv | ClC1=CC=2C3=C(NC2C=C1)CCN1CCCC13 | C14H15ClN2
reactant | 1-(2-bromoethyl)-4-fluorobenzene | 2.84 mmol, 577 mg, 1.4 equiv | BrCCC1=CC=C(C=C1)F | C8H8BrF
reactant | triethyl amine | 6.09 mmol, 0.85 mL, 3 equiv | C(C)N(CC)CC | C6H15N
solvent | EtOH | 6 mL | CCO | C2H6O
solvent | EtOAc | 40 mL | CCOC(=O)C | C4H8O2
product | 7-(4-fluorophenethyl)-10-chloro-2,3,5,6,7,11c-hexahydro-1H-indolizino[7,8-b]indole | FC1=CC=C(CCN2C3=C(C=4C=C(C=CC24)Cl)C2CCCN2CC3)C=C1 | C22H22ClFN2
